* ==========================================================================
* @part: BT136
* @family: thyristors
* @source: KiCadLib
* @url: https://github.com/kicad-spice-library/KiCad-Spice-Library (Models/uncategorized/spice_complete/TRIAC.LIB)
* @origin-file: KiCad-Spice-Library/Models/uncategorized/spice_complete/TRIAC.LIB
* @retrieved: 2026-09-24
* @licence: notice: "Copyright Intusoft 1993-1997"
* @added-by: nav
* @pins: BT136-600: 1 2 3
* @pins: BT136-800: 1 2 3
* Definitions below are copied verbatim from the origin file.
* ==========================================================================

* ---- original file header ----
**********
*Copyright Intusoft 1993-1997
*All Rights Reserved
**********
*SRC=TAC210-8;TAC2108;TRIACS;;
*SYM=TRIAC
*HELP issyntax.hlp "Triacs"
* ---- end of original file header ----

*****
*SRC=BT136-600;BT136-600;TRIACS;PHILIPS;600V 4A
*SYM=TRIAC
*HELP issyntax.hlp "Triacs"
.SUBCKT BT136-600  1  2  3
*     TERMINALS: MT2 G MT1
QN1  5 4 3  NOUT; OFF
QN2 11 6 7  NOUT; OFF
QP1 6 11 3  POUT; OFF
QP2  4 5 7  POUT; OFF
DF  4  5  DZ; OFF
DR  6 11  DZ; OFF
RF  4 6  60MEG
RT2 1 7  0.123
RH  7 6  35
RGP 8 3  15.5
RG  2 8  31.7
RS  8 4  34.5
DN  9 2  DIN; OFF
RN  9 3  457
GNN  6 7 9 3 16.6M
GNP  4 5 9 3 3.91M
DP 2 10  DIP; OFF
RP 10 3  457
GP  7 6 10 3 15.3M
.MODEL DIN  D (IS=115F)
.MODEL DIP  D (IS=115F N=1.5)
.MODEL DZ   D (IS=115F N=1.5 IBV=10U BV=600)
.MODEL POUT PNP (IS=115F BF=5 CJE=508P TF=43.4U)
.MODEL NOUT NPN (IS=115F BF=20 CJE=508P CJC=102P TF=2.89U)
.ENDS

*****
*SRC=BT136-800;BT136-800;TRIACS;PHILIPS;800V 4A
*SYM=TRIAC
*HELP issyntax.hlp "Triacs"
.SUBCKT BT136-800  1  2  3
*     TERMINALS: MT2 G MT1
QN1  5 4 3  NOUT; OFF
QN2 11 6 7  NOUT; OFF
QP1 6 11 3  POUT; OFF
QP2  4 5 7  POUT; OFF
DF  4  5  DZ; OFF
DR  6 11  DZ; OFF
RF  4 6  80MEG
RT2 1 7  0.123
RH  7 6  35
RGP 8 3  15.5
RG  2 8  31.7
RS  8 4  34.5
DN  9 2  DIN; OFF
RN  9 3  457
GNN  6 7 9 3 16.6M
GNP  4 5 9 3 3.91M
DP 2 10  DIP; OFF
RP 10 3  457
GP  7 6 10 3 15.3M
.MODEL DIN  D (IS=115F)
.MODEL DIP  D (IS=115F N=1.5)
.MODEL DZ   D (IS=115F N=1.5 IBV=10U BV=800)
.MODEL POUT PNP (IS=115F BF=5 CJE=508P TF=43.4U)
.MODEL NOUT NPN (IS=115F BF=20 CJE=508P CJC=102P TF=2.89U)
.ENDS
