* ==========================================================================
* @part: BTA16-600B
* @family: thyristors
* @source: ST
* @url: https://github.com/kicad-spice-library/KiCad-Spice-Library (Bordodynov LTspice library) (StThyrTriac.lib)
* @origin-file: KiCad-Spice-Library/Models/uncategorized/Bordodynovs Electronics Lib/sub/StThyrTriac.lib
* @retrieved: 2026-09-24
* @licence: notice: "(c) 2005 STMicroelectronics. All rights reserved."
* @added-by: garv.singh
* @pins: BTA16-600B: A K G
* @patched: 1 helper subckt/model name(s) suffixed with '__BTA16600B' so this file can be included together with other files
* Definitions below are copied verbatim from the origin file.
* ==========================================================================

* ---- original file header ----
*  File     : Triac_ST.LIB 
*  Revision : 3            
*  Date     : 16/Dec/05       
*
**********************************************************************
* Information included is believed to be accurate and reliable.      *
* However, STMicroelectronics assumes no responsibility              *
* for the consequences of use of such information nor for any        *
* infringement of patents or other rights of third parties which may *
* result from its use. No license is granted by implication or       *
* otherwise under any  patent rights of STMicroelectronics.    	     *
* Specification mentionned in this publication are subject to        *
* change without notice. This publication superseedes and replaces   *
* all information previously supplied. STMicroelectronics products   *
* are not authorized for use as critical components in life support  *
* or systems without express written approval of STMicroelectronics. *
*                                                                    *
*         (c) 2005 STMicroelectronics. All rights reserved.          *
*                                                                    *
*                STMicroelectronics group of companies               *
*   Australia - Belgium - Brazil - Canada - China - Czech Republic   *
*   - France - Finland - Germany - Hong Kong - Indian - Israel       *
*   - Italy - Japan - Korea - Malaysia - Malta - Mexico - Morocco    *
*     - Singapore - Spain - Sweden - Switzerland - United Kingdom    *
*                  - United States of America                        *
*                           www.st.com                               *
**********************************************************************
*
***********************************************************************
* 				Triacs PSpice Models                  *
***********************************************************************
* Note :
*
*	This triac model simulates:
*	-Igt (the same for all quadrants) MAX of the specification
*       -Il  (the same for all quadrants) Typ of the specification
*       -Ih  (the same for both polarity) Typ of the specification
*       -VDRM
*       -VRRM
*       -(di/dt)c and (dV/dt)c parameters are simulated only if those
*        constraints exceed very higly the specified limits.
*       -Power dissipation is realistic and correspond to a typical
*        triac
*
*       All these parameters are constant, and don't vary neither 
*       with temperature nor other parameters.
*    
*       The "STANDARD" parameter switch between 
*       4 quadrants triacs (STANDARD = 1) and
*       3 quadrants triacs (STANDARD = 0.
*       The "STANDARD" parameter maintains or suppress the triggering
*       possibility of the triac in the fourth quadrant, and has
*       absolutely NO EFFECT on other parameters.
*
*
*$
* ---- end of original file header ----

*$
.subckt Triac_ST__BTA16600B A K G PARAMS:
+ Vdrm=400v     
+ Igt=20ma
+ Ih=6ma        
+ Rt=0.01
+ Standard=1
*
* Vdrm : Repetitive forward off-state voltage
* Ih   : Holding current 
* Igt  : Gate trigger current 
* Rt   : Dynamic on-state resistance
* Standard : Differenciation between Snubberless and Standard Triacs
* (Standard=0 => Snubberless Triacs, Standard=1 => Standard Triacs)
*
*****************
* Power circuit *
*****************
*
****************
*Switch circuit*
****************
* Q1 & Q2 Conduction
S_S3         A Plip1 positive 0 Smain
*RS_S3        positive 0 1G
D_DAK1         Plip1 Plip2 Dak 
R_Rlip         Plip1 Plip2  1k
V_Viak         Plip2 K DC 0 AC 0 
*
* Q3 & Q4 Conduction
S_S4         A Plin1 negative 0 Smain
*RS_S4        negative 0 1G
D_DKA1         Plin2 Plin1 Dak 
R_Rlin         Plin1 Plin2  1k 
V_Vika         K Plin2 DC 0 AC 0  
**************
*Gate circuit*
**************
R_Rgk         G K  10G  
D_DGKi         Pg2 G Dgk 
D_DGKd         G Pg2 Dgk 
V_Vig         Pg2 K DC 0 AC 0 
R_Rlig         G Pg2  1k  
*******************
*Interface circuit*
*******************
* positive pilot
R_Rp         Controlp positive  2.2  
C_Cp         0 positive  1u 
E_IF15OR3         Controlp 0 VALUE {IF(  ( (V(CMDIG)>0.5) | (V(CMDILIH)>0.5) |
+ (V(CMDVdrm)>0.5) ),400,0 )}
* 
* negative pilot
R_Rn         Controln negative  2.2   
C_Cn         0 negative  1u  
E_IF14OR3         Controln 0 VALUE {IF(  ( (V(CMDIG)>0.5) | (V(CMDILIHN)>0.5) | 
+ (V(CMDVdrm)>0.5) ),400,0 )}
*
* 
******************
* Pilots circuit *
******************
******************
* Pilot Gate     *
******************
E_IF1IG         inIG 0 VALUE {IF(  ( ABS(I(V_Vig)) ) > Igt ,1,0 )}
E_MULT2MULT         CMDIG 0 VALUE {V(Q4)*V(inIG)}
E_IF2Quadrant4         Q4 0 VALUE 
+ {IF(((I(V_Vig)>Igt)&((V(A)-V(K))<0)&(Standard==0)),0,1)}
*
******************
* Pilot IHIL     *
******************
*
E_IF10IL         inIL 0 VALUE {IF( ((I(V_Viak))>2.5*Igt),1,0 )}
E_IF5IH         inIH 0 VALUE {IF( ((I(V_Viak))>(Ih/3)),1,0 )} 
*
* Flip_flop IHIL
E_IF6DIHIL         SDIHIL 0 VALUE {IF(
+ (V(inIL)*V(inIH)+V(inIH)*(1-V(inIL))*(V(CMDILIH)) )>0.5,1,0)}
C_CIHIL         CMDILIH 0  1n  
R_RIHIL         SDIHIL CMDILIH  1K  
R_RIHIL2         CMDILIH 0  100Meg  
******************
* Pilot IHILN    *
******************
*
E_IF11ILn         inILn 0 VALUE {IF( ((I(V_Vika))>2.5*Igt),1,0 )}
E_IF3IHn         inIHn 0 VALUE {IF( ((I(V_Vika))>(Ih/3)),1,0 )} 
* Flip_flop IHILn
E_IF4DIHILN         SDIHILN 0 VALUE {IF(
+ (V(inILn)*V(inIHn)+V(inIHn)*(1-V(inILn))*(V(CMDILIHN)) )>0.5,1,0)}
C_CIHILn         CMDILIHN 0  1n  
R_RIHILn         SDIHILN CMDILIHN  1K  
R_RIHILn2         CMDILIHN 0  100Meg  
******************
* Pilot VDRM     *
******************
E_IF8Vdrm         inVdrm 0 VALUE {IF( (ABS(V(A)-V(K))>(Vdrm*1.3)),1,0 )}
E_IF9IHVDRM         inIhVdrm 0 VALUE {IF( (I(V_Viak)>(Vdrm*1.3)/1.2meg)|
+  (I(V_Vika)>(Vdrm*1.3)/1.2meg),1,0)}
* Flip_flop VDRM
E_IF7DVDRM         SDVDRM 0 VALUE {IF(
+ (V(inVdrm)+(1-V(inVdrm))*V(inIhVdrm)*V(CMDVdrm) )>0.5,1,0)}
C_CVdrm         CMDVdrm 0  1n  
R_RVdrm         SDVDRM CMDVdrm  100  
R_RVdrm2        CMDVdrm 0  100Meg  
****************
* Switch Model *
****************
.MODEL Smain VSWITCH Roff=1.2meg Ron={Rt} Voff=0 Von=100
****************
* Diodes Model *
****************
.MODEL  Dak D( Is=3E-12 Cjo=5pf) 
.MODEL  Dgk D( Is=1E-16 Cjo=50pf Rs=5) 
.ends 

.subckt BTA16-600B A K G
X1 A K G Triac_ST__BTA16600B params:
+ Vdrm=600v     
+ Igt=100ma
+ Ih=50ma        
+ Rt=0.025
+ Standard=1
* 1999 / ST / Rev 0
.ends
