* ==========================================================================
* @part: C106D
* @family: thyristors
* @source: Bordodynov
* @url: https://github.com/kicad-spice-library/KiCad-Spice-Library (Bordodynov LTspice library)
* @origin-file: KiCad-Spice-Library/Models/uncategorized/Bordodynovs Electronics Lib/sub/scr.sub
* @retrieved: 2026-09-24
* @licence: no licence or copyright text in the vendor file (terms unknown)
* @added-by: garv.singh
* @pins: C106D: 1 2 3
* Definitions below are copied verbatim from the origin file.
* ==========================================================================

* ---- original file header ----
* SCR behavioral model
* Duane Hanselman 2007-08-21
* ---- end of original file header ----

* C106D  SCR  A G K  MCE  7-17-95
*MCE  400V  4A  pkg:TO-225AA
.SUBCKT C106D   1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    88.9MEG
RR  1 4    59.2MEG
RGK 6 5    1.12K
RG  2 6    46.2
RK  3 5    16.2M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.6F IBV=900N BV=400 RS=13.3MEG)
.MODEL ZR   D (IS=1.6F IBV=900N BV=533)
.MODEL ZGK  D (IS=1.6F IBV=900N BV=6)
.MODEL POUT PNP (IS=1.6P BF=1 CJE=418P)
.MODEL NOUT NPN (IS=1.6P BF=100 RC=65M
+ CJE=418P CJC=83.7P TF=214N TR=68U)
.ENDS XC106D
