* ==========================================================================
* @part: NE555 (bipolar)
* @family: timers
* @source: ngspice
* @url: https://ngspice.sourceforge.io/modelparams.html
* @retrieved: 2026-09-24
* @licence: none stated
* @added-by: nav
* ==========================================================================
* bipolar 555
.subckt 555bip Vcc GND Threas Reset Vctrl Dis Out Trig
* Generic bipolar models
.model NP NPN (BF=125 Cje=1p Cjc=0.5p Rb=500)
.model PN LPNP (BF=25 Cje=1p Cjc=0.5p Rb=250)

Q20 Net-_Q15-B_ Net-_Q15-B_ Vcc PN
R2 Vcc Net-_Q15-E_ 1k
R3 Vcc Vctrl 5k
Q11 Net-_Q10-C_ Net-_Q10-C_ Vcc PN
Q12 Net-_Q10-C_ Vctrl Net-_Q10-B_ NP
Q15 Net-_Q15-C_ Net-_Q15-B_ Net-_Q15-E_ PN
R10 Net-_Q28-E_ GND 3.3k
R11 Net-_Q32-B_ Net-_Q28-E_ 120
Q32 Out Net-_Q32-B_ GND NP
Q31 Vcc Net-_Q29-E_ Out NP
Q18 Net-_Q18-B_ Net-_Q18-B_ GND NP
Q17 GND Net-_Q17-B_ Net-_Q16-B_ PN
Q9 Net-_Q13-C_ Net-_Q7-E_ Net-_Q15-C_ PN
R5 Net-_Q17-B_ GND 5k
Q16 Net-_Q13-B_ Net-_Q16-B_ Net-_Q15-C_ PN
R4 Vctrl Net-_Q17-B_ 5k
Q14 Net-_Q13-B_ Net-_Q13-B_ GND NP
R8 Vcc Net-_Q28-C_ 6.2k
Q29 Vcc Net-_Q28-C_ Net-_Q29-E_ NP
R6 Net-_Q15-B_ Net-_Q21-C_ 7.5k
Q23 Net-_Q15-B_ Net-_Q15-B_ Vcc PN
Q25 Net-_Q25-C_ Net-_Q15-B_ Vcc PN
Q30 GND Net-_Q28-C_ Out PN
R12 Net-_Q29-E_ Out 3.9k
Q24 Net-_Q24-C_ Net-_Q21-E_ GND NP
Q26 Net-_Q25-C_ Net-_Q24-C_ GND NP
Q28 Net-_Q28-C_ Net-_Q25-C_ Net-_Q28-E_ NP
R9 Net-_Q28-E_ Net-_Q3-C_ 100
R7 Net-_Q25-C_ Net-_Q21-E_ 4.7k
Q22 Net-_Q21-E_ Net-_Q13-C_ GND NP
Q21 Net-_Q21-C_ Net-_Q19-C_ Net-_Q21-E_ NP
Q27 Net-_Q21-C_ Net-_Q21-C_ Net-_Q24-C_ NP
Q19 Net-_Q19-C_ Net-_Q18-B_ GND NP
Q8 Net-_Q18-B_ Net-_Q10-C_ Vcc PN
Q5 Net-_Q19-C_ Net-_Q1-B_ Vcc PN
Q6 Net-_Q1-B_ Net-_Q2-E_ Net-_Q10-E_ NP
Q10 Net-_Q10-C_ Net-_Q10-B_ Net-_Q10-E_ NP
Q1 Net-_Q1-B_ Net-_Q1-B_ Vcc PN
Q2 Net-_Q1-B_ Threas Net-_Q2-E_ NP
Q4 Dis Net-_Q3-C_ GND NP
R1 Net-_Q10-E_ GND 10k
Q13 Net-_Q13-C_ Net-_Q13-B_ GND NP
Q7 GND Trig Net-_Q7-E_ PN
Q3 Net-_Q3-C_ Reset Net-_Q21-C_ PN
.ends
